US04228170
7,8-Bismethylthioisoquinoline (553 mg., 2.5 mm.) was dissolved in 25 ml. of methylene chloride and 8 ml. of a solution of 1 M borane-dimethylsulfide complex in methylene chloride. The solution was refluxed under argon for eighteen hours and allowed to stand at room temperature overnight. The excess hydride was destroyed with methanol and the volatiles stripped off. The residual solid was treated with methanol and then refluxed for one hour in 20 ml of hydrochloric acid/methanol. The volatiles were evaporated and the resulting semi-solid was converted to the free base with sodium hydroxide-methylene chloride and chromatographed on silica gel employing 10% methanol-methylene chloride as the eluent. The resulting oil was dissolved in methanol and treated with hydrochloric acid ether to yield a white solid which was recrystallized in methanol to yield 7,8-bismethylthiotetrahydroisoquinoline hydrochloride having a melting point of 247°-249° C. (dec.).

reactant | 7,8-Bismethylthioisoquinoline | 553 mg | CSC1=CC=C2C=CN=CC2=C1SC | C11H11NS2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7,8-bismethylthiotetrahydroisoquinoline hydrochloride | Cl.CSC1=CC=C2CCNCC2=C1SC | InChI=1S/C11H15NS2.ClH/c1-13-10-4-3-8-5-6-12-7-9(8)11(10)14-2;/h3-4,12H,5-7H2,1-2H3;1H
